US04476131
2-(3,5-Dimethoxyphenyl)Cyclohexanone
A mixture of 23.6 g. 2-(3,5-dimethoxyphenyl)-4-cyclohexen-1-one, 300 ml. ethanol and 3 g. 10% Pd/C catalyst was hydrogenated at 40 psi (2.8 kg./cm.2). After hydrogen uptake ceased, the mixture was filtered, the filtrate evaporated in vacuo and the residue recrystallized from isopropyl ether to obtain 17 g. of product, M.P. 61°-62° C., lit. [J. Org. Chem., 27, 376 (1962)], M.P. 62.5°-63° C.

reactant | 2-(3,5-dimethoxyphenyl)-4-cyclohexen-1-one | COC=1C=C(C=C(C1)OC)C1C(CC=CC1)=O | C14H16O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(3,5-Dimethoxyphenyl)Cyclohexanone | COC=1C=C(C=C(C1)OC)C1C(CCCC1)=O | C14H18O3
